US08470841B2
5b. cis-N-{3-[5-(4-Cyclopentyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide
cis-N-{3-[5-(4-Hydroxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide (18.6 mg, 0.063 mmol), cyclopentyl bromide (11.3 mg, 0.076 mmol) and cesium carbonate (24.6 mg, 0.076 mmol) were stirred in 3 ml of DMF at room temperature for 3 h. Addition of 11 mg of cyclopentyl bromide and 20 mg of cesium carbonate on each of two occasions was followed by stirring for a total of 8 h and concentrating, and the residue was taken up in ethyl acetate and water. The organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 8.5 mg (37%), M+H+: 364.22.

reactant | cis-N-{3-[5-(4-Hydroxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide | 0.063 mmol, 18.6 mg | OC1=CC=C(O[C@@H]2CO[C@@H](OC2)CCCNC(C)=O)C=C1 | C15H21NO5
reactant | cyclopentyl bromide | 0.076 mmol, 11.3 mg | C1(CCCC1)Br | C5H9Br
reactant | cesium carbonate | 0.076 mmol, 24.6 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopentyl bromide | 11 mg | C1(CCCC1)Br | C5H9Br
reactant | cesium carbonate | 20 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | cis-N-{3-[5-(4-Cyclopentyloxyphenoxy)-[1,3]dioxan-2-yl]propyl}acetamide | C1(CCCC1)OC1=CC=C(O[C@@H]2CO[C@@H](OC2)CCCNC(C)=O)C=C1 | C20H29NO5
